US04337198
(a) 3-(4-chlorophenylamino)-pyrazine-2-carboxylic acid methyl ester
A mixture of 21.7 g 3-bromo-pyrazine-2-carboxylic acid methyl ester and 25.5 g 4-chloroaniline in 150 ml ethyl acetate is boiled 4 days at reflux. The solution is washed with 4 N hydrochloric acid, water and then with 2 N sodium carbonate. The organic phase is dried over sodium sulphate and evaporated to give the heading compound (recrystallised from isopropanol) m.p. 135°-136°.

reactant | 3-bromo-pyrazine-2-carboxylic acid methyl ester | 21.7 g | COC(=O)C1=NC=CN=C1Br | C6H5BrN2O2
reactant | 4-chloroaniline | 25.5 g | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 3-(4-chlorophenylamino)-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=CN=C1NC1=CC=C(C=C1)Cl | C12H10ClN3O2
